US04835177
Step E: 1,6-Dimethoxy-2,5-bis-(cyclohexylaminomethyl)-naphthalene
A solution of 1,6-dimethoxy-2,5-bis-[N-(cyclohexyl)benzyloxycarbonylaminomethyl)-naphthalene (250 mg) in methanol (10 ml) was hydrogenated at atmospheric pressure in the presence of 5% palladium-on-charcol (50 mg) for 2 hours at room temperature. The catalyst was removed by filtration through Celite, and the filtrate was evaporated to afford the product as a yellow syrup; yield 60 mg (37%).

reactant | 1,6-dimethoxy-2,5-bis-[N-(cyclohexyl)benzyloxycarbonylaminomethyl)-naphthalene | 250 mg | COC1=C(C=CC2=C(C(=CC=C12)OC)CN(C1CCCCC1)C(=O)OCC1=CC=CC=C1)CN(C1CCCCC1)C(=O)OCC1=CC=CC=C1 | C42H50N2O6
solvent | methanol | 10 ml | CO | CH4O
catalyst | palladium | [Pd] | Pd
product | 1,6-Dimethoxy-2,5-bis-(cyclohexylaminomethyl)-naphthalene | COC1=C(C=CC2=C(C(=CC=C12)OC)CNC1CCCCC1)CNC1CCCCC1 | C26H38N2O2
